US07947689B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-methyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 6-methyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 6-methyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine | CC1CC2=C(CN1)C=CO2 | C8H11NO
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-methyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=C(CC2C)OC=C1 | C15H13BrN4O2
